US07585885B2
5-Acetyl-N-methyl-N-propyl-isophthalamic acid
Treat a solution of 5-acetyl-N-methyl-N-propyl-isophthalamic acid ethyl ester (196 mg, 0.67 mmol) in ethanol (7 mL) at room temperature with 2 N NaOH (0.5 mL, 1.0 mmol) for 12 h. Acidify to about pH=3 using 1 N HCl. Extract with ethyl acetate (50 mL), dry (magnesium sulfate) and concentrate to give the title compound (179 mg, 95%).

reactant | 5-acetyl-N-methyl-N-propyl-isophthalamic acid ethyl ester | 0.67 mmol, 196 mg | C(C)OC(C1=CC(C(=O)N(CCC)C)=CC(=C1)C(C)=O)=O | C16H21NO4
reactant | NaOH | 1.0 mmol, 2 N, 0.5 mL | [OH-].[Na+]
reactant | HCl | 1 N | Cl | ClH
solvent | ethanol | 7 mL | C(C)O | C2H6O
product | 5-Acetyl-N-methyl-N-propyl-isophthalamic acid | 179 mg, 95% | C(C)(=O)C=1C=C(C=C(C(=O)O)C1)C(=O)N(CCC)C | C14H17NO4
